US07411072B2
7-Chloro-11-(3-nitro-benzylidene)-6,11-dihydro-dibenzo[b,e]oxepine
Following procedures essentially as described in Example 230, 11-bromomethylene-7-chloro-6,11-dihydro-dibenzo[b,e]oxepine is combined with m-nitrophenyl boronic acid to provide the title compound. The pure Z isomer is isolated by crystallization (diethyl ether) to give 1.4 g (31.7% yield) product. 1H NMR (400 MHz, CDCl3) δ 8.038-8.017 (d, 1H), 7.976 (s, 1H), 7.511-7.491 (d, 1H), 7.431-7.410 (d, 1H), 7.369-7.253 (m, 3H), 7.160-7.121 (t, 1H), 7.041-7.005 (m, 2H), 6.928-6.919 (d, 1H), 6.908-6.898 (d, 1H), 5.60 (s, 2H).

reactant | 11-bromomethylene-7-chloro-6,11-dihydro-dibenzo[b,e]oxepine | BrC=C1C2=C(OCC3=C1C=CC=C3Cl)C=CC=C2 | C15H10BrClO
reactant | m-nitrophenyl boronic acid | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
product | 7-Chloro-11-(3-nitro-benzylidene)-6,11-dihydro-dibenzo[b,e]oxepine | ClC1=CC=CC=2C(C3=C(OCC21)C=CC=C3)=CC3=CC(=CC=C3)[N+](=O)[O-] | C21H14ClNO3
